US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-pentyl-5-phenylisoxazole
3-Hydroxy-4-pentyl-5-phenylisoxazole (231 mg) and 2-(N-tert-butoxycarbonylamino)ethanol (193 mg) were subjected to reaction and post-treatment in a similar manner to that described in Example 1(a) to obtain the title compound (305 mg, 82%) as a colorless oil.

reactant | 3-Hydroxy-4-pentyl-5-phenylisoxazole | 231 mg | OC1=NOC(=C1CCCCC)C1=CC=CC=C1 | C14H17NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 193 mg | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-pentyl-5-phenylisoxazole | 305 mg, 82% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1CCCCC)C1=CC=CC=C1 | C21H30N2O4
